* PSpice Model Editor - Version 10.5.0
*$
*PART NUMBER:NJM2749A
*JFET OPAMP
*Version:2
*Please note that the inaccuracy is involved to it when you use this model.
*Please refrain from the model's resale.
********************************************
*Model Generated by NEW JAPAN RADIO CO.,LTD*
*            All Rights Reserved           *
*   Commercial Use or Resale Restricted    *
********************************************
.Subckt NJM2749A OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X1 +IN1 -IN1 V+ V- OUT1 NJM2749A_s
X2 +IN2 -IN2 V+ V- OUT2 NJM2749A_s
.ends NJM2749A
*$
* connections:     non-inverting input
*                  | inverting input
*                  | | positive power supply
*                  | | | negative power supply
*                  | | | | output
*                  | | | | |
.subckt NJM2749A_s  1 2 3 4 5
C1 11 12 {C1}
C2 15 16 {C2}
CS 10 0 {CS}
D1 16 17 DMOD1
D2 17 16 DMOD1
D3 5 18 DMOD2
D4 19 5 DMOD2
D5 20 10 DMOD2
VTL 20 4 {VTL}
GB 16 0 15 0 {GB}
GA 15 0 11 12 {GA}
GC 0 17 5 0 {GC}
GCM 0 15 10 0 {GCM}
ITL 10 4 {ITL}
M1 11 2 13 13 NMOS1 
M2 12 NET1 14 14 NMOS2 
RO1 16 5 {RO1}
RC 17 0 {RC}
RO2 16 0 {RO2}
R2 15 0 100E3
RD1 11 21 {RD1}
RD2 12 22 {RD2}
VRD1 3 21 {VRD}
VRD2 3 22 {VRD}
RS2 14 10 {RS2}
RS1 13 10 {RS1}
IDS 3 4 {IDS}
RP 3 4 {RP}
Vos 1 NET1 DC {VOS}
VS 19 4 DC {VS}
VD 3 18 DC {VD}
.MODEL DMOD1 D(T_MEASURED= 25 IS= 4.30E-19)
.MODEL DMOD2 D(T_MEASURED= 25 IS= 8.00E-16)
.MODEL NMOS1 NMOS(LEVEL=1 VTO= 4.89E-01
+ KP= 1.78E-04 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 6.70E+02)
.MODEL NMOS2 NMOS(LEVEL=1 VTO= 4.89E-01
+ KP= 1.78E-04 L={L_VAL} W={W_VAL} TOX= 1.30E-08 U0= 6.70E+02)
*
.PARAM
+ C1   = 2.020E-11
+ C2   = 3.63E-11
+ CS   = 7.94E-12
+ GCM  = 1.65E-08
+ GA   = 6.59E-04
+ GB   = 60.74
+ GC   = 311630.0564
+ ITL  = 6.67E-04
+ RD1  = 1518.45
+ RD2  = 1518.45
+ RC   = 3.21E-06
+ RS1  = 1143.74
+ RS2  = 1143.74
+ RO1  = 50
+ RO2  = 25
+ RP   = 6.15E+04
+ VD   = 2.299354204
+ VS   = 2.299354204
+ VOS  = 7.28051E-04
+ IDS  = 938.0E-06
+ VTL  = 3.73E+00
+ VRD  = 9.50E-01
+ L_VAL= 2.00E-06
+ W_VAL= 1.20E-04
.ends NJM2749A_s
*$
